US09351962B2
To a solution of 2,2-difluorobenzo[d][1,3]dioxol-5carbaldehyde (125 g, 0.67 mol) in anhydrous THF (400 mL) was added NaBh4 (28 g, 0.74 mol) in portions at 0° C. The mixture was stirred for 1 h at 0° C., then poured into 500 mL of water. The mixture was extracted with ethyl acetate (200 mL×3). The organic phase was dried over Na2SO4 and concentrated in vacuo to give (2,2-difluorobenzo[d][1,3]dioxol-5-yl)methanol as colorless oil (120 g, 95%).

reactant | 2,2-difluorobenzo[d][1,3]dioxol-5carbaldehyde | 0.67 mol, 125 g | FC1(OC2=C(O1)C=CC(=C2)C=O)F | C8H4F2O3
reactant | water | 500 mL | O | H2O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | (2,2-difluorobenzo[d][1,3]dioxol-5-yl)methanol | 120 g, 95% | FC1(OC2=C(O1)C=CC(=C2)CO)F | C8H6F2O3
